US06194487B1
Next, the 1,4-benzenedithiol vapor in the condensing chamber 2 was adiabatically expanded, and the introduced base particles were exposed thereto for 30 minutes. Consequently, a further polymerization reaction between 2,4-mesitylenedisulfonyl chloride and 1,4-benzenedithiol took place on the surface of the modified particles (19), forming a film of 2,4-mesitylenedisulfonylchloride-1,4-benzenedithiol co-polymer.

reactant | 1,4-benzenedithiol | C1(=CC=C(C=C1)S)S | C6H6S2
reactant | 2,4-mesitylenedisulfonyl chloride | C1(=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)S(=O)(=O)Cl)C | C9H10Cl2O4S2
product | 2,4-mesitylenedisulfonylchloride 1,4-benzenedithiol | C1(=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)S(=O)(=O)Cl)C.C1(=CC=C(C=C1)S)S | InChI=1S/C9H10Cl2O4S2.C6H6S2/c1-5-4-6(2)9(17(11,14)15)7(3)8(5)16(10,12)13;7-5-1-2-6(8)4-3-5/h4H,1-3H3;1-4,7-8H
